US05225591
500 mg 10% Pd/C was added to a solution of 4.5 g (8.60 mmoles) N-carbobenzyloxy-β-benzyl-L-aspartyl-D-alanine-1-cyclopentylethyl amide (from Part b) in 250 ml methanol. The mixture was hydrogenated at 40 psi for 4 hours, then the catalyst removed by filtration through a Celite® filter material. The Celite® filter material was then washed twice with 50 ml H2O and the combined methanol water filtrate concentrated to 100 ml in vacuo. This solution was diluted with 100 ml H2O, warmed to 50° C., and then filtered. The aqueous filtrate was freeze-dried to afford 2.55 g (8.5 mmoles) of L-aspartyl-D-alanine-1-cyclopentylethyl amide. HPLC analysis using a C-18 column and 20% CH3CN in 80% 0.2% KH2PO4 buffer pH 4.0 as eluant showed two peaks with a ratio of 6:1, representing the S and R isomers of the cyclopentylethyl amides. Three recrystallizations of the product from 95% ethanol gave 610 mg of the pure L-aspartyl-D-alanine-(S)-1-cyclopentylethyl amide, mp 204°-5° C.

reactant | N-carbobenzyloxy-β-benzyl-L-aspartyl-D-alanine-1-cyclopentylethyl amide | 8.60 mmoles, 4.5 g | C1(CCCC1)C(C)NC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)C)=O | C29H37N3O6
solvent | methanol | 250 ml | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | L-aspartyl-D-alanine-1-cyclopentylethyl amide | 8.5 mmoles, 2.55 g | C1(CCCC1)C(C)NC([C@H](NC([C@@H](N)CC(O)=O)=O)C)=O | C14H25N3O4
